US06329393B1
4(S)-(3,4-difluorophenyl)-5(S)-methyloxazolidin-2-one precursor to Compound A can be prepared by treating 3,4-difluorophenylacetic acid with LDA, followed by reaction with acetaldehyde to form 2-(3,4-difluorophenyl)-3-methyl-3-hydroxypropionic acid, and then cyclizing the hydroxypropionic acid with diphenyldiphosphorylazide to form the oxazolidinone. The oxazolidinone can then be activated by treatment with p-nitrophenylchloroformate. The oxazolidinones can be resolved into their optical isomers via chromatography prior to activation, or the unresolved material can be activated directly. The activated oxazolidinone is then acylated to give Compound A by treatment with 3-[4-(4-fluorophenyl)piperidin-1-yl]propylamine.

reactant | 4(S)-(3,4-difluorophenyl)-5(S)-methyloxazolidin-2-one | FC=1C=C(C=CC1F)[C@@H]1NC(O[C@H]1C)=O | C10H9F2NO2
reactant | 3,4-difluorophenylacetic acid | FC=1C=C(C=CC1F)CC(=O)O | C8H6F2O2
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | acetaldehyde | C(C)=O | C2H4O
product | 2-(3,4-difluorophenyl)-3-methyl-3-hydroxypropionic acid | FC=1C=C(C=CC1F)C(C(=O)O)C(O)C | C10H10F2O3
